US07262185B2
2-(α-cyano-4-fluorobenzyl)-4-methylpyridine (3.1 g) and potassium carbonate (2.9 g) were suspended in 20% hydrated dimethylsulfoxide (150 ml), and the suspension was stirred overnight. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give 2-(4-fluorobenzoyl)-4-methylpyridine (1.6 g) as brown crystals.

reactant | 2-(α-cyano-4-fluorobenzyl)-4-methylpyridine | 3.1 g | C(#N)C(C1=CC=C(C=C1)F)C1=NC=CC(=C1)C | C14H11FN2
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-(4-fluorobenzoyl)-4-methylpyridine | 1.6 g | FC1=CC=C(C(=O)C2=NC=CC(=C2)C)C=C1 | C13H10FNO
